US07244843B2
Step F. Preparation of (11aR)-1,2,11,11a-Tetrahydro-2-(2,4-dimethoxybenzyl)-4-methyl-4H-pyrazino[1,2-b]isoquinolin-3(6H)-one
Cesium carbonate (0.18 g) was added to a solution of N-(2,4-dimethoxybenzyl)-2-chloro-N-(((3R)-1,2,3,4-tetrahydroisoquinolin-3-yl)methyl)propanamide (0.18 g, 0.44 mmol) in DMF (4.7 ml). After stirring at ambient temperature for 3 h, the reaction was transferred to a separatory funnel with EtOAc. Extraction with EtOAc, washing the organic layer with water (3×) and brine and drying over MgSO4 afforded 0.15 g of crude product. Flash chromatography (SiO2, 0.2 to 10% MeOH in CH2Cl2) gave pure product (0.11 g, 68%). MS (ESI) 367 (M+H).

reactant | Cesium carbonate | 0.18 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N-(2,4-dimethoxybenzyl)-2-chloro-N-(((3R)-1,2,3,4-tetrahydroisoquinolin-3-yl)methyl)propanamide | 0.44 mmol, 0.18 g | COC1=C(CN(C(C(C)Cl)=O)C[C@@H]2NCC3=CC=CC=C3C2)C=CC(=C1)OC | C22H27ClN2O3
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | MeOH | CO | CH4O
solvent | DMF | 4.7 ml | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (11aR)-1,2,11,11a-Tetrahydro-2-(2,4-dimethoxybenzyl)-4-methyl-4H-pyrazino[1,2-b]isoquinolin-3(6H)-one | 0.11 g, 68% | COC1=C(CN2C[C@@H]3N(CC=4C=CC=CC4C3)C(C2=O)C)C=CC(=C1)OC | C22H26N2O3
